US04240964
3. 2-(o-Hydroxyphenyl)-pyrrole
150 mg of 10% strength palladium-on-charcoal catalyst are added to 1.5 g (6 millimoles) of 2-(o-benzyloxyphenyl) -pyrrole in 30 ml of methanol and hydrogenation is carried out under slightly superatmospheric pressure. The residue which remains after separating off the catalyst and evaporating the filtrate is recrystallized from toluene/petroleum ether (40°/60° C.). the yield is 0.8 g, ie. 84% of theory; melting point 100-101° C.

reactant | 2-(o-benzyloxyphenyl) -pyrrole | 6 millimoles, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1NC=CC1 | C17H15NO
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 2-(o-Hydroxyphenyl)-pyrrole | OC1=C(C=CC=C1)C=1NC=CC1 | C10H9NO
